datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COCCSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1>>COCCSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1 10=20;20,21=21",
"CCc1cc(Cl)c([O-:10])c(C(=O)NCC2CCC[NH+]2CC)c1OC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCc1cc(Cl)c([O:10][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(O)C[N:10](CCO)C(C)(C)C.Cn1cncc1CC(C(=O)[O-])[NH2+:21][H:20]>>CC(O)C[N+:10](CCO)(C(C)(C)C)[H:20].Cn1cncc1CC(C(=O)[O-])[NH2:21] 10=20;20,21=21",
"C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20].OCC[O-:10]>>C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-].OCC[O:10][H:20] 10=20;20,21=21",
"C[N+:21]1([H:20])C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]21.O=C([C@H]1C[C@@H]1Cl)[O-:10]>>C[N:21]1C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]21.O=C([C@H]1C[C@@H]1Cl)[O:10][H:20] 10=20;20,21=21",
"COCCC[NH2:10].COc1c(C)cc2c(c1C(=O)[O:21][H:20])COC2>>COCCC[NH2+:10][H:20].COc1c(C)cc2c(c1C(=O)[O-:21])COC2 10=20;20,21=21",
"[NH3+]Nc1c2ccccc2cn[n+:21]1[H:20].c1ccc(-c2cc(-c3ccccc3)c(NCC[NH+]3CCOCC3)[n:10]n2)cc1>>[NH3+]Nc1c2ccccc2cn[n:21]1.c1ccc(-c2cc(-c3ccccc3)c(NCC[NH+]3CCOCC3)[n+:10]([H:20])n2)cc1 10=20;20,21=21",
"CCC[NH+](CCC)CC[S:21][H:20].Cc1c(O)cccc1C(=O)[O-:10]>>CCC[NH+](CCC)CC[S-:21].Cc1c(O)cccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O:21][H:20])cn3)CC2)[nH+]c2ccccc21.Cc1cc(C(=O)[O-:10])c(C)o1>>CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O-:21])cn3)CC2)[nH+]c2ccccc21.Cc1cc(C(=O)[O:10][H:20])c(C)o1 10=20;20,21=21",
"CCCCCCP(CCCCCC)(CCCCCC)=[O+:21][H:20].Cc1n[nH]c2c(NCc3ccco3)nc[n:10]c12>>CCCCCCP(CCCCCC)(CCCCCC)=[O:21].Cc1n[nH]c2c(NCc3ccco3)nc[n+:10]([H:20])c12 10=20;20,21=21",
"C[N:10](C)CCN.N#Cc1ccc(C(=O)[S:21][H:20])cc1>>C[N+:10](C)(CCN)[H:20].N#Cc1ccc(C(=O)[S-:21])cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].[O-]c1ccc(-c2ccc([O-:10])cc2)cc1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].[O-]c1ccc(-c2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"C#CC(=O)[O:21][H:20].COc1ccc(-c2ncc(-c3ccc([NH2:10])cc3)o2)cc1>>C#CC(=O)[O-:21].COc1ccc(-c2ncc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1 10=20;20,21=21",
"Cc1cc(S(=O)(=O)[N:21](c2nccs2)[H:20])ccc1N.OC(C[S-])C[S-:10]>>Cc1cc(S(=O)(=O)[N-:21]c2nccs2)ccc1N.OC(C[S-])C[S:10][H:20] 10=20;20,21=21",
"C[C@]1(N)C[C@]1(C)[NH2:10].NC(CCC(N)=[N+:21](O)[H:20])=[NH+]O>>C[C@]1(N)C[C@]1(C)[NH2+:10][H:20].NC(CCC(N)=[N:21]O)=[NH+]O 10=20;20,21=21",
"Cc1c[n+](C)c([O-])[n+:21]([H:20])c1N.Cn1c[n:10]c2c(N)nc[nH+]c21>>Cc1c[n+](C)c([O-])[n:21]c1N.Cn1c[n+:10]([H:20])c2c(N)nc[nH+]c21 10=20;20,21=21",
"C[Si](C)(C)OC1C[N:10](Cc2ccc(F)cc2)C1.Cc1ccccc1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccccc1>>C[Si](C)(C)OC1C[N+:10](Cc2ccc(F)cc2)([H:20])C1.Cc1ccccc1/C(=N/CCC[N:21](C)C)c1ccccc1 10=20;20,21=21",
"Cc1[nH]c2ccccc2[n+:21]1[H:20].c1ccc(CO[n+]2ccc([O-:10])cc2)cc1>>Cc1[nH]c2ccccc2[n:21]1.c1ccc(CO[n+]2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"CN(c1nnn[n-:10]1)[N+](=O)[O-].COc1ccc(-c2nc3c[n+:21]([H:20])ccc3n2C)c(OC)c1>>CN(c1nnn[n:10]1[H:20])[N+](=O)[O-].COc1ccc(-c2nc3c[n:21]ccc3n2C)c(OC)c1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n-:10]1.c1coc(CSc2ncnc3nc[n:21]([H:20])c23)c1>>COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n:10]1[H:20].c1coc(CSc2ncnc3nc[n-:21]c23)c1 10=20;20,21=21",
"[H:20][NH2+:21]CCOC.CC(=O)[CH-:10][P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10](C(=O)C)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COCC[NH2:21] 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n+:21]([H:20])c2ccccc21.OCCc1cnc(P(c2ncc(CCO)[nH]2)c2[nH]c(CCO)c[n:10]2)[nH]1>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n:21]c2ccccc21.OCCc1cnc(P(c2ncc(CCO)[nH]2)c2[nH]c(CCO)c[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"CC(=O)Nc1ccc2cc3ccccc3[n:10]c2c1.[O-]c1ccc([O:21][H:20])cc1Br>>CC(=O)Nc1ccc2cc3ccccc3[n+:10]([H:20])c2c1.[O-]c1ccc([O-:21])cc1Br 10=20;20,21=21",
"O=C1C=C([O:21][H:20])c2ccccc2O1.O=N/C(Cc1ccccc1)=N\[O-:10]>>O=C1C=C([O-:21])c2ccccc2O1.O=N/C(Cc1ccccc1)=N\[O:10][H:20] 10=20;20,21=21",
"O=Cc1cc(Br)ccc1[O-:10].OC(c1ccccc1)(c1ccccc1)c1cccc[n+:21]1[H:20]>>O=Cc1cc(Br)ccc1[O:10][H:20].OC(c1ccccc1)(c1ccccc1)c1cccc[n:21]1 10=20;20,21=21",
"CC[NH+:21](N)[H:20].O=[N+]([O-])c1ccc(/C(=N\[O-:10])c2ccccc2)cc1>>CC[NH:21]N.O=[N+]([O-])c1ccc(/C(=N\[O:10][H:20])c2ccccc2)cc1 10=20;20,21=21",
"C[NH+]1CSCC1C(=O)[O-:10].Cc1cn[n+:21]([H:20])c2c(O)cccc12>>C[NH+]1CSCC1C(=O)[O:10][H:20].Cc1cn[n:21]c2c(O)cccc12 10=20;20,21=21",
"CC[C@@H]1C(=O)OC[C@H]1Cc1c[n:10]cn1C.Nc1ccc2cc3ccc4ccccc4c3[n+:21]([H:20])c2c1>>CC[C@@H]1C(=O)OC[C@H]1Cc1c[n+:10]([H:20])cn1C.Nc1ccc2cc3ccc4ccccc4c3[n:21]c2c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.Oc1onc2c1CC[NH:10]CC2>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.Oc1onc2c1CC[NH+:10]([H:20])CC2 10=20;20,21=21",
